US09447090B2
To a solution of 150 mg of methyl (2S,4S)-4-({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)-1-methylpyrrolidine-2-carboxylate and 4 ml of dichloromethane was added dropwise 1.5 ml of a 1 M diisobutylaluminum hydride/toluene solution under ice-cooling, followed by stirring for 2 hours under ice-cooling. Subsequently, 1 M hydrochloric acid was added thereto, the reaction mixture was filtered over Celite, and to the filtrate were added ethyl acetate to carry out a layer separation operation. The organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography. To a solution of the obtained purified product in ethyl acetate was added a hydrogen chloride/ethyl acetate solution, and the resulting solid was collected by filtration and dried to obtain 25 mg of 8-(cyclohexylmethoxy)-N-[(3S,5S)-5-(hydroxymethyl)-1-methylpyrrolidin-3-yl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide dihydrochloride.

reactant | methyl (2S,4S)-4-({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)-1-methylpyrrolidine-2-carboxylate | 150 mg | C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)N[C@H]2C[C@H](N(C2)C)C(=O)OC | C23H32N4O4
reactant | diisobutylaluminum hydride toluene | 1 M | [H-].C(C(C)C)[Al+]CC(C)C.C1(=CC=CC=C1)C
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 8-(cyclohexylmethoxy)-N-[(3S,5S)-5-(hydroxymethyl)-1-methylpyrrolidin-3-yl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide dihydrochloride | 25 mg | Cl.Cl.C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)N[C@@H]2CN([C@@H](C2)CO)C | InChI=1S/C22H32N4O3.2ClH/c1-15-20(22(28)24-17-11-18(13-27)25(2)12-17)26-10-6-9-19(21(26)23-15)29-14-16-7-4-3-5-8-16;;/h6,9-10,16-18,27H,3-5,7-8,11-14H2,1-2H3,(H,24,28);2*1H/t17-,18-;;/m0../s1
